US08871738B2
To a 100 mL RBF equipped with a reflux condenser was added benzyl {(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}carbamate (0.5 g, 1.13 mmol), 1-ethenyl-3-methyl-5-(trifluoromethyl)benzene (421 mg, 2.26 mmol) and dichloromethane (10 mL). The system was flushed with nitrogen and 1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene[2-(1-propoxy)-5-(N,N-dimethylaminosulfonyl)phenyl]methyleneruthenium(II)dichloride (41 mg, 0.57 mmol) (Zhan catalyst-1B) was added before heating at 60° C. for 20 min. The reaction was cooled to room temperature and was directly purified by column chromatography to yield benzyl {(1R,4E)-1-[2-bromo-5-(trifluoromethyl)phenyl]-5-[3-methyl-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}carbamate (500 mg, 0.833 mmol). 1H NMR (500 MHz, CDCl3) δ7.72 (m, 1H), 7.58 (s, 1H), 7.39 (b, 5H), 6.4 (d, J=8.2 Hz, 1H), 6.25 (m, 1H), 5.35 (m, 1H), 5.20 (m, 1H), 5.10 (s, 2H), 2.40 (s, 3H), 2.19 (m, 1H), 2.05 (m, 1H), 1.95 (m, 1H), 1.78 (m, 1H).

reactant | benzyl {(1S)-1-[2-bromo-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}carbamate | 1.13 mmol, 0.5 g | BrC1=C(C=C(C=C1)C(F)(F)F)[C@H](CCC=C)NC(OCC1=CC=CC=C1)=O | C20H19BrF3NO2
reactant | 1-ethenyl-3-methyl-5-(trifluoromethyl)benzene | 2.26 mmol, 421 mg | C(=C)C1=CC(=CC(=C1)C(F)(F)F)C | C10H9F3
catalyst | 1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene[2-(1-propoxy)-5-(N,N-dimethylaminosulfonyl)phenyl]methyleneruthenium(II)dichloride | 0.57 mmol, 41 mg | CC1=C(C(=CC(=C1)C)C)N1C(N(CC1)C1=C(C=C(C=C1C)C)C)=[Ru-4](=CC1=C(C=CC(=C1)S(=O)(=O)N(C)C)OCCC)(Cl)Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | benzyl {(1R,4E)-1-[2-bromo-5-(trifluoromethyl)phenyl]-5-[3-methyl-5-(trifluoromethyl)phenyl]pent-4-en-1-yl}carbamate | 0.833 mmol, 500 mg | BrC1=C(C=C(C=C1)C(F)(F)F)[C@@H](CC\C=C\C1=CC(=CC(=C1)C(F)(F)F)C)NC(OCC1=CC=CC=C1)=O | C28H24BrF6NO2
